US06680313B2
Sodium (1S,5R,6S)-2-[7-(2-formimidoylaminoethyl)thioimidazo[5,1-b]thiazol-2-yl]-6-((1R)-1-hydroxyethyl)-1-methyl-1-carbapen-2-em-3-carboxylate
Sodium (1S,5R,6S)-2-[7-(2-aminoethyl)thioimidazo[5,1-b]thiazol-2-yl]-6-((1R)-1-hydroxyethyl)-1-methyl-1-carbapen-2-em-3-carboxylate (45.7 mg) was suspended in 3 ml of water under ice cooling. Ethylformimidate hydrochloride (46 mg) was added to the suspension. While adjusting the mixture to pH 8 to 9 by the addition of an aqueous sodium carbonate solution, the mixture was stirred at that temperature for one hr, and then at room temperature for 1.5 hr. The reaction product was then purified by column chromatography on Cosmosil 40C18-PREP (a 20% aqueous methanol solution) to prepare 5.4 mg of the title compound.

reactant | Sodium (1S,5R,6S)-2-[7-(2-aminoethyl)thioimidazo[5,1-b]thiazol-2-yl]-6-((1R)-1-hydroxyethyl)-1-methyl-1-carbapen-2-em-3-carboxylate | 45.7 mg | NCCSC=1N=CN2C1SC(=C2)C=2[C@@H]([C@H]1N(C2C(=O)[O-])C([C@@H]1[C@@H](C)O)=O)C.[Na+]
reactant | Ethylformimidate hydrochloride | 46 mg | Cl.C(C)OC=N
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 3 ml | O | H2O
product | Sodium (1S,5R,6S)-2-[7-(2-formimidoylaminoethyl)thioimidazo[5,1-b]thiazol-2-yl]-6-((1R)-1-hydroxyethyl)-1-methyl-1-carbapen-2-em-3-carboxylate | C(=N)NCCSC=1N=CN2C1SC(=C2)C=2[C@@H]([C@H]1N(C2C(=O)[O-])C([C@@H]1[C@@H](C)O)=O)C.[Na+] | InChI=1S/C18H21N5O4S2.Na/c1-8-11(14(18(26)27)23-13(8)12(9(2)24)16(23)25)10-5-22-7-21-15(17(22)29-10)28-4-3-20-6-19;/h5-9,12-13,24H,3-4H2,1-2H3,(H2,19,20)(H,26,27);/q;+1/p-1/t8-,9+,12+,13+;/m0./s1
